US06620842B2
1-[3-Methyl-7-(Allyloxy)Flavon-8-yl]-3-(3,4,5-Trimethoxy-Phenyl)Propen -1-one (See Accompanying Formula Drawing VIB 171).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 7-allyloxy-8-acetyl -3methylflavone (2.5 g, 0.0075 mol) and 3,4,5-trimethoxy-benzaldehyde (1.47 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.4 g of product m.p. 121-23° C., 1H-NMR (CDCl3)δ: 2.20 (s, 3H); 3.87 (m, 9H); 4.73 (d, 2H, J=5,1 Hz; 5.25-5.45 (m, 2H); 5.91-6.02 (m, 1H); 6.75 (s, 2H); 6.96 (d,1H, J=16 Hz); 7.10 (d, 1H, J=8.9 Hz); 7.30 (d, 1H, J=16 Hz); 7.42-7.46 (m, 3H); 7.55-7.59 (m, 2H); 8.34 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 7-allyloxy-8-acetyl -3methylflavone | 0.0075 mol, 2.5 g | C(C=C)OC1=CC=C2C(C(=C(OC2=C1C(C)=O)C1=CC=CC=C1)C)=O | C21H18O4
reactant | 3,4,5-trimethoxy-benzaldehyde | 0.0075 mol, 1.47 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-Methyl-7-(Allyloxy)Flavon-8-yl]-3-(3,4,5-Trimethoxy-Phenyl)Propen -1-one | 2.4 g | CC1=C(OC2=C(C(=CC=C2C1=O)OCC=C)C(C=CC1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC=CC=C1 | C31H28O7
